US20010003741A1
Synthesis of (1S,2S)-2-(5-cyclohexylcarbamoyl)pentanoylamino-3-morpholino-1-phenyl-1-propanol
A mixed solvent of methylene chloride:methanol=4:1 (10 ml), 5-cyclohexylcarbamoylpentanoic acid (546.0 mg, 2.4 mmol), triethylamine (620 μl, 4.4 mmol) and EDC (460 mg, 2.4 mmol) were added to (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol (472.0 mg, 2.0 mmol), followed by stirring overnight. Methylene chloride (100 ml) was added to the reaction solution. After washed with a saturated sodium hydrogen carbonate solution (50 ml), water (50 ml) and saturated brine (50 ml) successively, the organic layer was dried over sodium sulfate and filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:methanol=10:1) to obtain the title compound (607 mg, yield 68.0%) as colorless oil.

reactant | 5-cyclohexylcarbamoylpentanoic acid | 2.4 mmol, 546.0 mg | C1(CCCCC1)NC(=O)CCCCC(=O)O | C12H21NO3
reactant | triethylamine | 4.4 mmol, 620 μl | C(C)N(CC)CC | C6H15N
reactant | EDC | 2.4 mmol, 460 mg
reactant | (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol | 2.0 mmol, 472.0 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C13H20N2O2
reactant | methanol | CO | CH4O
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S)-2-(5-cyclohexylcarbamoyl)pentanoylamino-3-morpholino-1-phenyl-1-propanol | 607 mg, yield 68.0% | C1CCCC(C1)NC(=O)[C@@H](C(=O)N[C@@](CCN1CCOCC1)(O)C1=CC=CC=C1)CCC | C25H39N3O4
